US07202363B2
ethyl 2-[4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridin-7-yl]cyclopropanecarboxylate
Trimethylsulfoxonium iodide (45.1 mg, 0.205 mmol) in anhydrous methyl sulfoxide (4 mL) and 60% sodium hydride in mineral oil (16.4 mg, 0.411 mmol) was stirred for 5 minutes at room temperature and treated with a mixture of ethyl (2E)-3-[4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridin-7-yl]acrylate (108 mg, 0.205 mmol) in methyl sulfoxide (2 mL) was added. After 4 hours the mixture was cooled to room temperature and quenched with saturated ammonium chloride solution (7 mL). The aqueous layer was extracted with dichloromethane (3×10 mL), dried over magnesium sulfate, filtered, and the solvent was removed under reduced pressure. The crude product was purified via HPLC preparative to give the title compound as a white solid (33.6 mg 0.062 mmol): LCMS (Conditions a): MH+=541 Rt =4.20 minutes; 1H NMR (DMSO-d6, 400 MHz) δ 9.51 (1H), 7.99 (1H), 7.69 (2H), 7.58 (2H), 7.35 (2H), 7.18 (1H), 7.15 (1H), 7.06 (1H), 5.49 (1H), 4.18 (2H), 4.04 (3H), 3.91 (3H), 2.45 (1H), 1.86 (1H), 1.56 (1H), 1.47 (1H), 1.26 (3H).

reactant | Trimethylsulfoxonium iodide | 0.205 mmol, 45.1 mg | [I-].C[S+](=O)(C)C
reactant | ethyl (2E)-3-[4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridin-7-yl]acrylate | 0.205 mmol, 108 mg | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)/C=C/C(=O)OCC | C29H26N4O4S
solvent | methyl sulfoxide | 4 mL | CS(=O)C | C2H6OS
solvent | sodium hydride | [H-].[Na+]
solvent | methyl sulfoxide | 2 mL | CS(=O)C | C2H6OS
product | ethyl 2-[4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridin-7-yl]cyclopropanecarboxylate | 0.062 mmol, 33.6 mg | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2C(C2)C(=O)OCC | C30H28N4O4S
